US06500837B2
2. 3-(4-Ethoxycarbonylmethyl-2-iodo-phenylamino)but-2-enoic acid ethyl ester
A solution of (4-amino-3-iodo-phenyl)acetic acid ethyl ester (9.85 g, 32.3 mmol), ethyl acetoacetate (4.2 g, 32.3 mmol), and toluenesulfonic acid monohydrate (0.3 g, 1.6 mmol) in benzene (150 mL) is refluxed under Dean-Stark conditions overnight. The solution is then cooled to room temperature and washed with sodium bicarbonate (NaHCO3) (2×50 mL) and concentrated in vacuo to give the desired product (12.5 g, 93%). The product is used without further purification in Step 3. MS: 418 (M+1)+.

reactant | (4-amino-3-iodo-phenyl)acetic acid ethyl ester | 32.3 mmol, 9.85 g | C(C)OC(CC1=CC(=C(C=C1)N)I)=O | C10H12INO2
reactant | ethyl acetoacetate | 32.3 mmol, 4.2 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
catalyst | toluenesulfonic acid monohydrate | 1.6 mmol, 0.3 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
product | 3-(4-Ethoxycarbonylmethyl-2-iodo-phenylamino)but-2-enoic acid ethyl ester | 12.5 g, 93% | C(C)OC(C=C(C)NC1=C(C=C(C=C1)CC(=O)OCC)I)=O | C16H20INO4
